* =============================================================
* TLV2379 Quad RRIO Op-Amp - Behavioral SPICE Model
* Texas Instruments
* =============================================================
* GBW: 100 kHz
* Slew rate: 0.04 V/us
* Input noise: 39 nV/rtHz
* Supply: 2.5V to 16V
* Quiescent: 13 uA per amplifier
* Rail-to-rail input and output
* =============================================================

.SUBCKT TLV2379 INP INN OUT VCC VEE
* INP = non-inverting input
* INN = inverting input
* OUT = output
* VCC = positive supply
* VEE = negative supply

* CMOS input impedance
Rinp INP 0 1T
Rinn INN 0 1T

* Open-loop gain: 100 dB
Ediff diff_int 0 INP INN 100000

* Dominant pole: f_p = GBW / A_OL = 100k / 100000 = 1 Hz
Rpole diff_int pole_out 1k
Cpole pole_out 0 159u

* Rail-to-rail output (within 20mV of rails)
Bout OUT 0 V = MAX(MIN(V(pole_out), V(VCC)-0.02), V(VEE)+0.02)

.ENDS TLV2379
